US08258144B2
To a mixture of 2-chloro-N-methyl-5-(pyridin-3-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.075 g, 0.182 mmol) in nBuOH (1 mL) was added 6-aminoindazole (0.048 g, 0.36 mmol) and TMSCl (0.06 mL, 0.46 mmol). After heating at 115° C. for 72 h, the mixture was purified by preparative HPLC to give N2-(1H-indazol-6-yl)-N4-methyl-5-(pyridin-3-yl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine (0.03 g), MS (MH 357.2), λ=203.9, 246.3, 305.6.

reactant | 2-chloro-N-methyl-5-(pyridin-3-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.182 mmol, 0.075 g | ClC=1N=C(C2=C(N1)N(C=C2C=2C=NC=CC2)S(=O)(=O)C2=CC=C(C)C=C2)NC | C19H16ClN5O2S
reactant | 6-aminoindazole | 0.36 mmol, 0.048 g | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | TMSCl | 0.46 mmol, 0.06 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 1 mL | C(CCC)O | C4H10O
product | N2-(1H-indazol-6-yl)-N4-methyl-5-(pyridin-3-yl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine | 0.03 g | N1N=CC2=CC=C(C=C12)NC=1N=C(C2=C(N1)NC=C2C=2C=NC=CC2)NC | C19H16N8
